US08258130B2
To a solution of 4-amino-2,6-dimethyl-4,5-dihydro-2H-1,2,4-triazin-3-one (0.219 g, 1.58 mmol) and 2-phenyl-pyrimidine-5-carboxylic acid (0.317 g, 1.58 mmol) in dry DMF (10 mL) under N2 is added DMTMM (0.46 g, 1.66 mmol). The mixture is stirred at rt for 22 h, then diluted with EtOAc (70 mL), and washed successively with saturated aqueous NaHCO3 solution (2×10 mL) and brine (10 mL). The organic phase is dried (MgSO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with heptane:EtOAc gradient to afford 2-phenyl-pyrimidine-5-carboxylic acid (2,6-dimethyl-3-oxo-2,5-dihydro-3H-1,2,4-triazin-4-yl)-amide as a solid (0.28 g, 55%). MS: 325 (M+H); 1H NMR (300 MHz, DMSO-d6) δ 9.24 (s, 2H), 8.45 (dd, J=7.7, 2.0 Hz, 2 H), 7.52-7.62 (m, 3H), 4.25 (s, 2H), 3.18 (s, 3H), 1.95 (s, 3H).

reactant | 4-amino-2,6-dimethyl-4,5-dihydro-2H-1,2,4-triazin-3-one | 1.58 mmol, 0.219 g | NN1C(N(N=C(C1)C)C)=O | C5H10N4O
reactant | 2-phenyl-pyrimidine-5-carboxylic acid | 1.58 mmol, 0.317 g | C1(=CC=CC=C1)C1=NC=C(C=N1)C(=O)O | C11H8N2O2
reactant | DMTMM | 1.66 mmol, 0.46 g | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 70 mL | CCOC(=O)C | C4H8O2
product | 2-phenyl-pyrimidine-5-carboxylic acid (2,6-dimethyl-3-oxo-2,5-dihydro-3H-1,2,4-triazin-4-yl)-amide | 0.28 g, 55% | CN1N=C(CN(C1=O)NC(=O)C=1C=NC(=NC1)C1=CC=CC=C1)C | C16H16N6O2
